US05025036
A solution of 2.3 g of 4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid ethyl ester in 50 mL of ethyl acetate and 0.3 g of 10% palladium on carbon was stirred in a hydrogen atmosphere for 22 hours. The reaction mixture was filtered through Celite and the filtrate was concentrated under reduced pressure to a solid. Recrystallization from ethyl acetate-hexane gave 1.3 g, mp 45°-47°, (85% yield) to 4-[6-(2,3-dihydroxyphenyl)hexyloxy]benzoic acid ethyl ester.

reactant | 4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid ethyl ester | 2.3 g | C(C)OC(C1=CC=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C35H38O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | 4-[6-(2,3-dihydroxyphenyl)hexyloxy]benzoic acid ethyl ester | 85% yield | C(C)OC(C1=CC=C(C=C1)OCCCCCCC1=C(C(=CC=C1)O)O)=O | C21H26O5
